US06429214B1
(1-Ethyl-7-hydroxy-2-oxo-1,2-dihydro-quinolin-3-yl)-acetic acid methyl ester
A suspension of (1-ethyl-7-hydroxy-2-oxo-1,2-dihydro-quinolin-3-yl)-acetic acid (2.9 g, 12 mmol) in methanol (30 mL) was treated with 12 N aqueous HCl (3 mL, 36 mmol) and the mixture heated to reflux. After 5 h, the resulting solution was cooled to room temperature, filtered and left standing overnight. The resulting solid was vacuum filtered, washed with ice-cold methanol and air-dried to give the title compound (1.8 g, 58% yield) as white needles.

reactant | (1-ethyl-7-hydroxy-2-oxo-1,2-dihydro-quinolin-3-yl)-acetic acid | 12 mmol, 2.9 g | C(C)N1C(C(=CC2=CC=C(C=C12)O)CC(=O)O)=O | C13H13NO4
reactant | HCl | 36 mmol, 12 N, 3 mL | Cl | ClH
reactant | methanol | 30 mL | CO | CH4O
product | (1-Ethyl-7-hydroxy-2-oxo-1,2-dihydro-quinolin-3-yl)-acetic acid methyl ester | 1.8 g, 58% yield | COC(CC=1C(N(C2=CC(=CC=C2C1)O)CC)=O)=O | C14H15NO4
